US04925838
To a solution of (2S,4S)-1- (4-nitrobenzyloxycarbonyl)-2-[4-(4-nitrobenzyloxycarbonyl)piperazin-1-yl]methyl-4-(triphenylmethylthio)pyrrolidine (2.76 g) in trifluoroacetic acid (15 ml) was added 2-mercaptoethanol (0.31 ml) under ice-cooling and the mixture was stirred at ambient temperature for 10 minutes. The reaction mixture was concentrated under reduced pressure to give a residue. The residue was dissolved in toluene (20 ml) and the solution was evaporated in vacuo to give a syrup. The syrup was dissolved in ethyl acetate (60 ml) and washed successively with saturated aqueous sodium hydrogen carbonate (30 ml) and saturated aqueous sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure to give a residue. The residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[4-(4-nitrobenzyloxycarbonyl)piperazin-1-yl]methylpyrrolidine (0.93 g).

reactant | (2S,4S)-1- (4-nitrobenzyloxycarbonyl)-2-[4-(4-nitrobenzyloxycarbonyl)piperazin-1-yl]methyl-4-(triphenylmethylthio)pyrrolidine | 2.76 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CN2CCN(CC2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C44H43N5O8S
reactant | 2-mercaptoethanol | 0.31 ml | SCCO | C2H6OS
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[4-(4-nitrobenzyloxycarbonyl)piperazin-1-yl]methylpyrrolidine | 0.93 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1CCN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H29N5O8S
